US07112584B2
4.8 g of (benzo[1,3]dioxol-4-yl)-cyclobutyl-carbonitrile, dissolved in 45 ml of toluene, is slowly mixed at −70° C. with 20.2 ml of 1,2 M diisobutylaluminium hydride solution in toluene. After 4 hours at −78° C., 15 ml of ethyl acetate is added in drops. It is heated to room temperature, added to water/ethyl acetate and filtered through diatomaceous earth. The water phase is extracted with ethyl acetate, and the combined organic phases are dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel with hexane-ethyl acetate (80:20), 3.05 g of (benzo[1,3]dioxol-4-yl)-cyclobutyl-carbaldehyde is obtained. The latter is added to a solution, prepared at −78° C. and tempered to 0° C., of 3.9 g of 2-diethylphosphono-2-ethoxyacetic acid ethyl ester and 7.9 ml of lithium diisopropylamine (2 M in heptane/ethylbenzene/THF) in 25 ml of water, and it is stirred for 12 hours at room temperature. The reaction mixture is added to water, extracted with ethyl acetate, washed with brine, dried (Na2SO4) and concentrated by evaporation. The crude product is stirred in 137 ml of a solution of 1N sodium hydroxide solution in ethanol/water 2:1 at room temperature for 12 hours. The batch is concentrated in a vacuum, and the remaining solution is extracted with diethyl ether. The aqueous phase is acidified with 1 M hydrochloric acid and extracted with diethyl ether. 2.95 g of acid, which is refluxed for several hours with 55 ml of 2N sulfuric acid and 10 ml of glacial acetic acid while being stirred vigorously, is obtained. After extraction with ethyl acetate and washing with water, 1.66 g of 3-(benzo[1,3]dioxol-4-yl)-cyclobutyl-2-oxopropionic acid is obtained as a yellowish oil.

reactant | diisobutylaluminium hydride | 1,2 M, 20.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-diethylphosphono-2-ethoxyacetic acid ethyl ester | 3.9 g | C(C)OC(C(OCC)P(=O)(OCC)OCC)=O | C10H21O6P
reactant | lithium diisopropylamine | 2 M, 7.9 ml | C(C)(C)NC(C)C.[Li]
reactant | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 ml | O | H2O
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 3-(benzo[1,3]dioxol-4-yl)-cyclobutyl-2-oxopropionic acid | 1.66 g | O1COC2=C1C=CC=C2C2CC(C2)CC(C(=O)O)=O | C14H14O5
